US03951981
Preparation of 7-Hydroxy-10-(4-phenyl-1-piperazinyl)-4H-thieno[3,4-b] [1,5]benzodiazepine
A solution of 7-hydroxy-10-(methylthio)-4H-thieno[3,4-b][1,5]benzodiazepine in excess N-phenylpiperazine and glacial acetic acid is heated at 140°-160°C. for 2 days. The solution is poured into water and the product is collected.

reactant | 7-hydroxy-10-(methylthio)-4H-thieno[3,4-b][1,5]benzodiazepine | OC=1C=CC2=C(N=C(C=3C(N2)=CSC3)SC)C1 | C12H10N2OS2
reactant | water | O | H2O
reactant | N-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Hydroxy-10-(4-phenyl-1-piperazinyl)-4H-thieno[3,4-b] [1,5]benzodiazepine | OC=1C=CC2=C(N=C(C=3C(N2)=CSC3)N3CCN(CC3)C3=CC=CC=C3)C1 | C21H20N4OS
